US07692005B2
1,5-Dimethyl-1H-pyrazole-4-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide
A small screw cap test tube was charged with 1,5-Dimethyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (prepared below, 134 mg, 0.333 mmol) and THF (3.3 mL). To the resulting solution was added 4-(4-methyl-piperazin-1-yl)-phenylamine (64.2 mg, 0.336 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and concentrated in vacuo. The residue was dissolved in EtOAc (˜5 mL) and the resulting solution was triturated with Hexanes (˜40 mL). The precipitate that formed was collected by filtration and washed with 0° C. iPrOH (˜10 mL) to afford the title compound in 11% yield (0.021 g, 0.036 mmol).

reactant | 1,5-Dimethyl-1H-pyrazole-4-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 0.333 mmol, 134 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN(C1C)C)=O | C22H18N4O4
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.336 mmol, 64.2 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | THF | 3.3 mL | C1CCOC1 | C4H8O
product | 1,5-Dimethyl-1H-pyrazole-4-carboxylic acid [3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 11% yield | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN(C1C)C)=O | C33H33N7O3
